US04436748
To 1.26 g of sodium hydride in 25 ml dimethylformamide (sieve dried) is added dropwise a solution of 10 of 2,3-dichloro-4-methoxythiophenol in 25 ml dimethylformamide. After the addition is complete, the reaction mixture is stirred for 25 mins and a solution of 10 g of 2,4-difluorobenzyl bromide in 25 ml dimethylformamide is added dropwise. After this addition is complete, the mixture is stirred for 20 mins and cautiously poured onto ice-water. The aqueous mixture is extracted with ethyl ether. The ether extracts are washed, dried over anhydrous magnesium sulfate, filtered and the solvent is removed to give an oil which crystallizes with cooling and trituration with hexane. Two recrystallizations with ethyl acetate-hexane give 5.1 g of (2,3-dichloro-4-methoxyphenyl) 2,4-difluorobenzyl sulfide, mp 86°-88°.

reactant | sodium hydride | 1.26 g | [H-].[Na+]
reactant | 2,3-dichloro-4-methoxythiophenol | ClC1=C(C=CC(=C1Cl)OC)S | C7H6Cl2OS
reactant | 2,4-difluorobenzyl bromide | 10 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (2,3-dichloro-4-methoxyphenyl) 2,4-difluorobenzyl sulfide | 5.1 g | FC1=C(CSC2=C(C(=C(C=C2)OC)Cl)Cl)C=CC(=C1)F | C14H10Cl2F2OS
